US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]piperazine hydrochloride
In methanol (100 ml), 1-tert-butoxycarbonyl-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]piperazine (3.63 g) was dissolved. Under ice cooling, a 0.2N methanol solution of sodium hydroxide (100 ml) was added to the resulting solution, followed by stirring at room temperature for 12 hours. After a saturated aqueous solution of ammonium chloride was added to the reaction mixture under ice cooling, water and dichloromethane were added to separate the organic layer. The organic layer was dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. After the solid so precipitated was collected by filtration, it was dissolved in saturated ethanol hydrochloride, followed by stirring for 30 minutes. The reaction mixture was distilled under reduced pressure to remove the solvent, followed by drying under reduced pressure, whereby the title compound (1.25 g, 54%) was obtained as colorless powder.

reactant | 1-tert-butoxycarbonyl-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]piperazine | 3.63 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C23H26ClN3O6S2
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 0.2N | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(5-Chloroindol-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1 | InChI=1S/C12H14ClN3O2S.ClH/c13-10-1-2-11-9(7-10)8-12(15-11)19(17,18)16-5-3-14-4-6-16;/h1-2,7-8,14-15H,3-6H2;1H
